data/polar.json
{"reaction_name": "Weinreb amide formation", "rsmi": "[C:2]([Cl:3])(=[O:4])[CH3:8].[CH3:1][N:6]([O:5][CH3:7])[H:9]>>[CH3:1][N:6]([C:2](=[O:4])[CH3:8])[O:5][CH3:7].[Cl:3][H:9]", "epd": [["LP-/Sigma+", [6], [2, 6]], ["Pi-/LP+", [2, 4], [4]], ["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 9]], ["Sigma-/LP+", [6, 9], [6]]]}
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[Br:1][CH2:2][C:3](=[O:4])[CH:5]([H:24])[CH:20]([H:25])[C:6](=[O:7])[CH3:8].[N:9]([H:21])([H:22])[H:23]>>[Br:1][CH2:2][c:3]1[n:9]([H:23])[c:6]([CH3:8])[cH:20][cH:5]1.[O:4]([H:21])[H:24].[O:7]([H:22])[H:25]", "epd": [["LP-/Sigma+", [9], [3, 9]], ["Pi-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 21]], ["Sigma-/LP+", [9, 21], [9]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 24]], ["Sigma-/LP+", [5, 24], [5]], ["Pi-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 22]], ["Sigma-/LP+", [9, 22], [9]], ["LP-/Sigma+", [9], [6, 9]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 25]], ["Sigma-/LP+", [20, 25], [20]], ["LP-/Pi+", [5], [3, 5]], ["LP-/Pi+", [20], [6, 20]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[c:14]([N:8]([CH3:16])[CH3:17])[cH:2][cH:29][c:13]([CH:3]=[C:15]2[CH:4]=[CH:6][CH:7]=[CH:5]2)[cH:28]1.[cH:9]1[c:18]([CH+:32][c:19]2[cH:10][c:22]([F:26])[cH:31][c:23]([F:27])[cH:11]2)[cH:12][c:20]([F:24])[cH:30][c:21]1[F:25]>>[CH:1]1=[CH:28][C:13](=[CH:3][C:15]2=[CH:5][CH:7]=[CH:6][CH:4]2[CH:32]([c:18]2[cH:9][c:21]([F:25])[cH:30][c:20]([F:24])[cH:12]2)[c:19]2[cH:10][c:22]([F:26])[cH:31][c:23]([F:27])[cH:11]2)[CH:29]=[CH:2][C:14]1=[N+:8]([CH3:16])[CH3:17]", "epd": [["LP-/Pi+", [8], [14, 8]], ["Pi-/Pi+", [1, 14], [28, 1]], ["Pi-/Pi+", [13, 28], [3, 13]], ["Pi-/Pi+", [15, 3], [5, 15]], ["Pi-/Pi+", [7, 5], [6, 7]], ["Pi-/Sigma+", [4, 6], [4, 32]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:1]1=[CH:11][c:12]2[cH:24][cH:23][cH:33][cH:16][c:29]2[CH:34]1[Na:30].[O:2]=[S:14](=[O:3])([N:13]([S:10][C:6]([F:7])([F:8])[F:9])[S:15](=[O:4])(=[O:5])[c:32]1[cH:19][cH:27][cH:22][cH:28][cH:20]1)[c:31]1[cH:17][cH:25][cH:21][cH:26][cH:18]1>>[CH:1]1=[CH:11][c:12]2[cH:24][cH:23][cH:33][cH:16][c:29]2[CH:34]1[S:10][C:6]([F:7])([F:8])[F:9].[Na+:30].[O:2]=[S:14](=[O:3])([N-:13][S:15](=[O:4])(=[O:5])[c:32]1[cH:19][cH:27][cH:22][cH:28][cH:20]1)[c:31]1[cH:17][cH:25][cH:21][cH:26][cH:18]1", "epd": [["Sigma-/Sigma+", [34, 30], [34, 10]], ["Sigma-/LP+", [10, 13], [13]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:3]1([Cl:17])=[C:4]([Cl:18])[C:7](=[O:10])[C:15]([C:19]#[N:22])=[C:16]([C:20]#[N:23])[C:6]1=[O:9].[CH:1]1=[CH:2][c:5]2[cH:12][cH:11][cH:21][cH:8][c:13]2[CH:24]1[Na:14]>>[CH:1]1=[CH:2][c:5]2[cH:12][cH:11][cH:21][cH:8][c:13]2[CH:24]1[C:15]1([C:19]#[N:22])[C:7](=[O:10])[C:4]([Cl:18])=[C:3]([Cl:17])[C:6]([O-:9])=[C:16]1[C:20]#[N:23].[Na+:14]", "epd": [["Sigma-/Sigma+", [24, 14], [24, 15]], ["Pi-/Pi+", [15, 16], [16, 6]], ["Pi-/LP+", [6, 9], [9]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH2:2]1[N:15]2[CH2:3][CH2:20][N:6]([CH2:43][c:8]3[cH:22][cH:26][cH:37][cH:27][cH:23]3)[c:32]3[c:12]2[c:31]([cH:17][n:14][cH:18]3)[N:5]([CH2:42][c:7]2[cH:21][cH:25][cH:36][cH:28][cH:24]2)[CH2:19]1.[CH3:1][O:4][c:9]1[cH:44][cH:29][c:16]([CH:39]=[C:38]2[CH:40]=[C:10]([Br:34])[C:13](=[O:33])[C:11]([Br:35])=[CH:41]2)[cH:30][cH:45]1>>[CH3:1][O:4][c:9]1[cH:44][cH:29][c:16]([CH:39]([N:14]2[CH:17]=[C:31]3[N:5]([CH2:42][c:7]4[cH:21][cH:25][cH:36][cH:28][cH:24]4)[CH2:19][CH2:2][N+:15]4=[C:12]3[C:32](=[CH:18]2)[N:6]([CH2:43][c:8]2[cH:22][cH:26][cH:37][cH:27][cH:23]2)[CH2:20][CH2:3]4)[c:38]2[cH:40][c:10]([Br:34])[c:13]([O-:33])[c:11]([Br:35])[cH:41]2)[cH:30][cH:45]1", "epd": [["LP-/Pi+", [15], [12, 15]], ["Pi-/Pi+", [31, 12], [17, 31]], ["Pi-/Sigma+", [14, 17], [14, 39]], ["Pi-/Pi+", [39, 38], [38, 40]], ["Pi-/Pi+", [40, 10], [10, 13]], ["Pi-/LP+", [13, 33], [33]]]}
{"reaction_name": "Alkene chlorination", "rsmi": "[CH2:3]=[CH2:4].[Cl:1][Cl:2]>>[Cl:1][CH2:3][CH2:4][Cl:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/Sigma+", [3, 4], [2, 4]]]}
